US04036979
A sample of 6.3 grams of 2-acetyl-4,5,6,7-tetrahydrobenzo[b]thiophen-4-amine hydrochloride is dissolved in 35 ml. of water and cooled to 15° C. A solution of 2.64 grams of potassium cyanate in 35 ml. of water is added, and after 0.5 hour the mixture is heated at 70° C. for about 40 minutes. The mixture is cooled, and the solid is collected and washed with water. On drying, 5.55 grams, melting point 218° C. to 220° C., of 2-acetyl-4,5,6,7-tetrahydrobenzo[b]thien-4-ylurea is obtained.

reactant | 2-acetyl-4,5,6,7-tetrahydrobenzo[b]thiophen-4-amine hydrochloride | 6.3 grams | Cl.C(C)(=O)C1=CC2=C(S1)CCCC2N
reactant | potassium cyanate | 2.64 grams | [O-]C#N.[K+]
solvent | water | O | H2O
product | 2-acetyl-4,5,6,7-tetrahydrobenzo[b]thien-4-ylurea | C(C)(=O)C1=CC2=C(S1)CCCC2NC(=O)N | C11H14N2O2S
